US03936430
Comparative Example B (chlorination of a polymer containing no dicyclopentadiene)
4 liters of chlorine gas (20°C, 1 atmosphere) were passed during a period of 30 minutes at 25°C in diffuse daylight through a dispersion of 35 g of a terpolymer in 1 liter of water. The terpolymer was composed of 53.9% by weight of ethylene, 42% by weight of propylene, and 4.1% by weight of 5-ethylidenenorbornene-2. The dispersed terpolymer particles ranged in size from 3 -22 mm. The dispersion was intensively stirred during the passage of the chlorine gas. After the passage of the chlorine gas was complete, the dispersion was ventilated and pure nitrogen gas was passed through the dispersion to remove any excess chlorine. The chlorinated terpolymer was recovered by filtration, and the resulting rubbery crumb was washed with distilled water and dried. The resulting terpolymer contained 3.3% by weight of chlorine. According to the N.M.R. analysis the copolymer thus prepared contained no allylic bounded chlorine.

reactant | chlorine | 4 liters | ClCl | Cl2
reactant | ethylene | C=C | C2H4
reactant | propylene | C=CC | C3H6
solvent | water | 1 liter | O | H2O
product | dicyclopentadiene | C1C=CC2C1C3CC2C=C3 | C10H12
